US05262565
8-Benzyl-2-methoxy-1-naphthol
122 g of 8-benzoyl-1-naphthol was suspended in 800 ml of diethylene glycol, followed by the addition of 250 ml of hydrazine monohydrate and 99 g of sodium hydroxide at room temperature. The obtained mixture was stirred at 100° C. for 48 hours and cooled to room temperature by allowing to stand, followed by the addition of 500 ml of water. The obtained mixture was acidified with concentrated hydrochloric acid and extracted with 1.5 l of toluene. The organic layer was washed with a saturated aqueous solution of sodium chloride and purified by silica gel column chromatography (developer: benzene) to give 100 g of the title compound as a pale-yellow crystal.

reactant | 8-benzoyl-1-naphthol | 122 g | C(C1=CC=CC=C1)(=O)C=1C=CC=C2C=CC=C(C12)O | C17H12O2
reactant | hydrazine monohydrate | 250 ml | O.NN
reactant | sodium hydroxide | 99 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | diethylene glycol | 800 ml | C(COCCO)O | C4H10O3
solvent | water | 500 ml | O | H2O
product | 8-Benzyl-2-methoxy-1-naphthol | 100 g | C(C1=CC=CC=C1)C=1C=CC=C2C=CC(=C(C12)O)OC | C18H16O2
